US08283353B2
1-benzyl-4-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine
To a solution (50 mL) of 1-benzyl-4-methyl-1H-pyrazol-5-amine (5 g) and tetrahydro-4H-pyran-4-one (3.2 g) in acetic acid was added sodium cyanoborohydride (6.8 g), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the solvent was evaporated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The obtained extract was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (1.9 g, 38%).

reactant | 1-benzyl-4-methyl-1H-pyrazol-5-amine | 50 mL, 5 g | C(C1=CC=CC=C1)N1N=CC(=C1N)C | C11H13N3
reactant | tetrahydro-4H-pyran-4-one | 3.2 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium cyanoborohydride | 6.8 g | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-benzyl-4-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazol-5-amine | 1.9 g, 38% | C(C1=CC=CC=C1)N1N=CC(=C1NC1CCOCC1)C | C16H21N3O
